US05929072
To a solution of 4-fluoro-2-nitro benzaldehyde (3.76 g, 25 mmol) in dry MeOH (120 ml), was added isopropyl amine (2.1 ml, 25 mmol) and the mixture stirred for 2 hours at room temperature in Argon atmosphere. Then it was then transferred into a Parr bottle containing 5% Pd on charcoal (246 mg) under Argon and hydrogenated at 30 psi for 18 hours. The suspension was filtered over a celite pad, washed with MeOH and evaporated at reduced pressure to afford (2-amino-4-fluorophenyl)-N-(1-methylethyl)-methylamine as a yellow oil.

reactant | 4-fluoro-2-nitro benzaldehyde | 25 mmol, 3.76 g | FC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | isopropyl amine | 25 mmol, 2.1 ml | C(C)(C)N | C3H9N
reactant | MeOH | 120 ml | CO | CH4O
catalyst | Pd on charcoal | 246 mg | [Pd] | Pd
product | (2-amino-4-fluorophenyl)-N-(1-methylethyl)-methylamine | NC1=C(C=CC(=C1)F)N(C(C)C)C | C10H15FN2
